US04874761
A solution of 97.9 g (0.36 mole) of 3-(4-methoxybenzoyl)-2-methylnitrobenzene and 191 ml (1.45 mole) of DMF dimethyl acetal in 400 ml of DMF was heated under reflux for about nineteen hours and the reaction mixture then taken to dryness in vacuo to give 108 g of 2-(2-dimethylaminoethenyl)-3-(4-methoxybenzoyl)nitrobenzene as a red oil.

reactant | 3-(4-methoxybenzoyl)-2-methylnitrobenzene | 0.36 mole, 97.9 g | COC1=CC=C(C(=O)C=2C(=C(C=CC2)[N+](=O)[O-])C)C=C1 | C15H13NO4
reactant | DMF dimethyl acetal | 1.45 mole, 191 ml | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 2-(2-dimethylaminoethenyl)-3-(4-methoxybenzoyl)nitrobenzene | 108 g | CN(C=CC1=C(C=CC=C1C(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])C | C18H18N2O4
